US07037925B2
6,7-Dimethoxy-4-(4-methoxycarbonyl-2-methylanilino)-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.35 mmol), methyl 4-amino-2-methylbenzoate acid (0.076 g, 0.46 mmol) and acetic acid (100 μl) in DMF (0.8 ml) was heated at 100° C. for 9 h. After cooling, the mixture was combined with two similar reaction mixtures (starting from 92 and 46 mg 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide respectively) and diluted with water. The mixture was made alkaline with saturated NaHCO3 and the gummy precipitate was collected, washed with water and re-crystallized from methanol to give the title compound (130 mg, 47%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.35 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | methyl 4-amino-2-methylbenzoate | 0.46 mmol, 0.076 g | NC1=CC(=C(C(=O)OC)C=C1)C | C9H11NO2
reactant | acetic acid | 100 μl | C(C)(=O)O | C2H4O2
reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 46 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6,7-Dimethoxy-4-(4-methoxycarbonyl-2-methylanilino)-3-quinolinecarboxamide | 130 mg, 47% | COC=1C=C2C(=C(C=NC2=CC1OC)C(=O)N)NC1=C(C=C(C=C1)C(=O)OC)C | C21H21N3O5
